US07759337B2
Synthesis of N-cyclopropyl-3-(1-(ethylthio)phthalazin-6-yl)-4-methylbenzamide
A mixture of 6-bromo-1-(ethylthio)phthalazine (1.87 g), N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (0.3 g, 0.9 mmol), and tetrakis(triphenylphosphine) palladium(0) (0.05 g, 0.05 mmol) in DME/EtOH (4:1) (5 mL) was treated with the 2 M aqueous solution of potassium carbonate (1 mL, 3 mmol). The mixture was heated at 90° C. for 1 h. The mixture was cooled, diluted with ethyl acetate (100 mL), washed with water (3×20 mL), brine 20 mL, dried over anhydrous Na2SO4, and concentrated in vacuo. The crude product was purified by chromatography eluting with 1-5% 2 M ammonia methanol/dichloromethane to give the title compound as pale yellow solid. Found MS(ES+): 364(M+H)+.

reactant | 6-bromo-1-(ethylthio)phthalazine | 1.87 g | BrC=1C=C2C=NN=C(C2=CC1)SCC | C10H9BrN2S
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.9 mmol, 0.3 g | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | potassium carbonate | 3 mmol, 1 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DME EtOH | 5 mL | COCCOC.CCO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.05 mmol, 0.05 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-cyclopropyl-3-(1-(ethylthio)phthalazin-6-yl)-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)SCC)=O | C21H21N3OS
